US06162808
i) 5-[2-Methylthiazol-4-yl]-1H-tetrazole
A mixture of 4-cyano-2-methylthiazole (5.74 g) (U.S. Pat. No. 4,010,173 1977), trimethylsilyl azide (10.64 g) and dibutyltin oxide (115 g) in toluene (300 ml) was heated at 120° C. for 24 hours. The reaction mixture was diluted with ethyl acetate and extracted with dilute aqueous sodium hydroxide solution. The combined extracts were acidified to pH 5 with 1M HCl and extracted with ethyl acetate. The extracts were dried (MgSO4) and evaporated. Yield 4.53 g.

reactant | 4-cyano-2-methylthiazole | 5.74 g | C(#N)C=1N=C(SC1)C | C5H4N2S
reactant | trimethylsilyl azide | 10.64 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 115 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-Methylthiazol-4-yl]-1H-tetrazole | CC=1SC=C(N1)C1=NN=NN1 | C5H5N5S
